US09290517B2
1-allyl-6-chloro-5-iodo-2-methylsulfonyl-imidazo[4,5-b]pyridine
N,N-diisopropylethylamine (0.69 ml, 3.95 mmol) and allyl bromide (0.32 ml, 3.70 mmol) were added to a stirred suspension of 6-chloro-5-iodo-2-methylsulfonyl-1H-imidazo[4,5-b]pyridine (1.0824 g, 3.03 mmol) in THF (12.0 ml). The reaction mixture was heated to 60° C. for 18 h, then cooled to room temperature. The reaction mixture was partitioned between EtOAc (50 ml) and brine (50 ml). The organic layer was washed with brine (1×50 ml). The combined aqueous layers were extracted with EtOAc (1×50 ml). The organic layers were combined, dried over Na2SO4, filtered, and evaporated under reduced pressure to give the title compound as a yellow foam. This material was a mixture of the allyl regioisomers and was used without further purification. LC-MS: calculated for C10H9ClIN3O2S 396.91 observed m/e: 397.89 (M+H)+ (Rt 1.12 and 1.17/2 min).

reactant | N,N-diisopropylethylamine | 3.95 mmol, 0.69 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | allyl bromide | 3.70 mmol, 0.32 ml | C(C=C)Br | C3H5Br
reactant | 6-chloro-5-iodo-2-methylsulfonyl-1H-imidazo[4,5-b]pyridine | 3.03 mmol, 1.0824 g | ClC=1C=C2C(=NC1I)N=C(N2)S(=O)(=O)C | C7H5ClIN3O2S
solvent | THF | 12.0 ml | C1CCOC1 | C4H8O
product | 1-allyl-6-chloro-5-iodo-2-methylsulfonyl-imidazo[4,5-b]pyridine | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)I)S(=O)(=O)C | C10H9ClIN3O2S
